US04743685
(E) (3S)-[1-[[[[3-[[3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-1-oxo-2-propenyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-N-(2-oxo-1-imidazolidinyl)-2-propenamide (3.55 g) was suspended in 100 ml of ethyl acetate and 6.3 g of N-methyl-N-(trimethylsilyl)trifluoroacetamide was added. After stirring for 1 hour, a clear solution was obtained. The solution was then added within 10 minutes to a cooled solution (0° C.) of 3.3 g of (S)-1-[[(chlorosulfonyl)amino]carbonyl]-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone in 50 ml of ethyl acetate. After stirring overnight, the solvent was evaporated and the oily residue was stirred for 1 hour with 50 ml of isopropanol. The resultant precipitate was isolated by filtration and washed with isopropanol and ether. Yield: 5.91 g.

reactant | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-N-(2-oxo-1-imidazolidinyl)-2-propenamide | 3.55 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)NN1C(NCC1)=O | C18H18N4O4
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 6.3 g | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | (S)-1-[[(chlorosulfonyl)amino]carbonyl]-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | 3.3 g | ClS(=O)(=O)NC(=O)N1C([C@H](C1)NC(=O)OCC1=CC=CC=C1)=O | C12H12ClN3O6S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (3S)-[1-[[[[3-[[3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-1-oxo-2-propenyl]amino]-2-oxo-1-imidazolidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)NN1C(N(CC1)S(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)=O | C30H29N7O10S
